US09447044B2
Step A: 2-cyclohexylsulfanyl-nicotinic acid
2-Mercapto-nicotinic acid (0.5 g, 3.22 mmol) was dissolved in DMF (5 mL), and the solution was cooled to 0˜5° C. NaH (0.64 g, 16.11 mmol) was added slowly thereto, and the mixture was stirred at 0˜5° C. for 30 minutes. Bromo-cyclohexane (1.19 mL, 9.66 mmol) was added thereto, and the mixture was stirred at room temperature for 12 hours. After the termination of the reaction, the reactant was concentrated under reduced pressure, and the residue was diluted with water. 3N HCl was used to adjust the pH of the solution to 2˜3, and the solution was extracted with EtOAc. The organic layer was dried with MgSO4 and concentrated under reduced pressure to obtain the title compound, which was used in the next step without a separate purification process.

reactant | 2-Mercapto-nicotinic acid | 3.22 mmol, 0.5 g | SC1=C(C(=O)O)C=CC=N1 | C6H5NO2S
reactant | NaH | 16.11 mmol, 0.64 g | [H-].[Na+]
reactant | Bromo-cyclohexane | 9.66 mmol, 1.19 mL | BrC1CCCCC1 | C6H11Br
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-cyclohexylsulfanyl-nicotinic acid | C1(CCCCC1)SC1=C(C(=O)O)C=CC=N1 | C12H15NO2S
